US07906517B2
(2′-Benzyloxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine (606 mg) is dissolved in ethanol (10 ml), and thereto is added 10% palladium-carbon (100 mg) and the mixture is stirred under hydrogen atmosphere at room temperature for 3.5 hours. The catalyst is removed by filtration, and the filtrate is concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (hexane:ethyl acetate=9:1→7:3) to give 2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-ol (374 mg). MS (m/z): 657 [M+H]+

reactant | (2′-Benzyloxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amine | 606 mg | C(C1=CC=CC=C1)OC1=C(C=CC=C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C1=NC=C(C=N1)N1CCOCC1)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C38H31F9N4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 100 mg | [C].[Pd]
product | 2′-{[(3,5-bis-trifluoromethyl-benzyl)-(5-morpholin-4-yl-pyrimidin-2-yl)-amino]-methyl}-4′-trifluoromethyl-biphenyl-2-ol | 374 mg | FC(C=1C=C(CN(C2=NC=C(C=N2)N2CCOCC2)CC2=C(C=CC(=C2)C(F)(F)F)C=2C(=CC=CC2)O)C=C(C1)C(F)(F)F)(F)F | C31H25F9N4O2
